US07414061B2
3-(2-Fluoro-phenyl)-4-[1-(4-methoxy-phenyl)-1H-imidazol-4-yl]-5-methyl-isoxazole
To a solution of 3-(2-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-methyl-isoxazole (100 mg, 0.41 mmol) in DMSO (2 mL) was added copper(I) iodide (7.9 mg, 0.04 mmol), 4-iodoanisole (57 mg, 0.45 mmol), L-proline (9.5 mg, 0.08 mmol) and potassium carbonate (113.6 mg, 0.82 mmol) and the resulting mixture heated at 90° C. for 3 days. After cooling to room temperature the resulting mixture was poured into water and extracted with ethyl acetate. The organic extracts were then washed with water and brine, dried over sodium sulphate and evaporated. Purification by chromatography (SiO2, heptane:ethyl acetate=1:1) afforded the title compound (5.7 mg, 4%) which was obtained as a light brown gum. MS: m/e=350.5 [M+H]+.

reactant | 3-(2-fluoro-phenyl)-4-(1H-imidazol-4-yl)-5-methyl-isoxazole | 0.41 mmol, 100 mg | FC1=C(C=CC=C1)C1=NOC(=C1C=1N=CNC1)C | C13H10FN3O
reactant | 4-iodoanisole | 0.45 mmol, 57 mg | IC1=CC=C(C=C1)OC | C7H7IO
reactant | L-proline | 0.08 mmol, 9.5 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | potassium carbonate | 0.82 mmol, 113.6 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 2 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 0.04 mmol, 7.9 mg | [Cu]I
solvent | water | O | H2O
product | 3-(2-Fluoro-phenyl)-4-[1-(4-methoxy-phenyl)-1H-imidazol-4-yl]-5-methyl-isoxazole | 5.7 mg, 4% | FC1=C(C=CC=C1)C1=NOC(=C1C=1N=CN(C1)C1=CC=C(C=C1)OC)C | C20H16FN3O2
